US06878714B2
Dissolved 4-(5-nitro-2-pentafluoroethyl-phenoxymethyl)-piperidine (646 mg) in 1,2-dichloroethane (6.4 ml), then added acetone (136 ul), NaBH(OAc)3 (541 mg) and finally acetic acid (105 ul). Stirred the cloudy yellow solution under N2 at RT overnight. Added another 130 uL acetone and stirred at RT over weekend. Quenched the reaction with 30 mL N NaOH/H2O and stirred 10 min. Extracted with Et2O and the organic layer was brine-washed, dried over Na2SO4, filtered and concentrated in vacuo. Dried under high vacuum for several h to obtain 1-isopropyl-4-(5-nitro-2-pentafluoroethyl-phenoxymethyl)-piperidine as a yellow orange solid.

reactant | 4-(5-nitro-2-pentafluoroethyl-phenoxymethyl)-piperidine | 646 mg | [N+](=O)([O-])C=1C=CC(=C(OCC2CCNCC2)C1)C(C(F)(F)F)(F)F | C14H15F5N2O3
reactant | acetone | 136 ul | CC(=O)C | C3H6O
reactant | NaBH(OAc)3 | 541 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | acetic acid | 105 ul | C(C)(=O)O | C2H4O2
reactant | acetone | 130 uL | CC(=O)C | C3H6O
solvent | 1,2-dichloroethane | 6.4 ml | ClCCCl | C2H4Cl2
product | 1-isopropyl-4-(5-nitro-2-pentafluoroethyl-phenoxymethyl)-piperidine | C(C)(C)N1CCC(CC1)COC1=C(C=CC(=C1)[N+](=O)[O-])C(C(F)(F)F)(F)F | C17H21F5N2O3
